### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/AdjMatrix): prove equation relating `adjMatrix` with its `compl`

### PR DESCRIPTION
**Pull request by Rida-Hamadani**
This is an equation that is used in many graph theory proofs.  In particular, I want to use it in the proof of the Hoffman-Singleton theorem.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/AdjMatrix.lean [hunk 1]
```diff
@@ -279,6 +279,20 @@ theorem adjMatrix_pow_apply_eq_card_walk [DecidableEq V] [Semiring α] (n : ℕ)
       simp at hxy
 #align simple_graph.adj_matrix_pow_apply_eq_card_walk SimpleGraph.adjMatrix_pow_apply_eq_card_walk
 
+/-- The sum of the identity, the adjacency of `G`, and the adjacency of `Gᶜ` yeilds all ones. -/
+theorem one_add_adjMatrix_add_compl_adjMatrix_eq_allOnes [DecidableEq V] :
+    1 + G.adjMatrix ℕ + (G.adjMatrix ℕ).compl = fun _ _ ↦ 1 := by
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/SimpleGraph/AdjMatrix.lean:284]:
```suggestion
    1 + G.adjMatrix ℕ + (G.adjMatrix ℕ).compl = Matrix.of fun _ _ ↦ 1 := by
```

Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/AdjMatrix.lean]: Suggestion committed in addition to rewriting `of_apply` to make it work.  Thanks!

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
